US07288552B2
The Synthesis of ethyl 4-[4-(benzyloxy)piperidino]butanoate
To 12 mL of N,N-dimethylformamide was added 4-(benzyloxy)piperidine (0.8 g), sodium bicarbonate (1.05 g), potassium iodide (used as a catalyst), ethyl-4-chlorobutyrate (0.88 mL). The resulting mixture was refluxed for 4 hrs. The resulting mixture was cooled, and concentrated under reduced pressure. The resultant mixture was then extracted by using water and chloroform. An organic solution layer was dehydrated over magnesium sulfate, filtered, and concentrated under reduced pressure. The column chromatography was performed thereon, thereby obtaining crude yellowish liquid product (1.05 g, 82% yield) of the title.

reactant | 4-(benzyloxy)piperidine | 0.8 g | C(C1=CC=CC=C1)OC1CCNCC1 | C12H17NO
reactant | sodium bicarbonate | 1.05 g | C([O-])(O)=O.[Na+]
reactant | potassium iodide | [I-].[K+]
reactant | ethyl-4-chlorobutyrate | 0.88 mL | C(C)OC(CCCCl)=O | C6H11ClO2
solvent | N,N-dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
product | ethyl 4-[4-(benzyloxy)piperidino]butanoate | 1.05 g, 82% yield | C(C1=CC=CC=C1)OC1CCN(CC1)CCCC(=O)OCC | C18H27NO3
